US07750003B2
2-Chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-[[2-(trifluoromethyl)phenyl]sulfonylmethyl]pyrimidine
Sodium 2-(trifluoromethyl)benzenesulfinate (10.24 g, 44 mmol) was added to 2-chloro-4-(iodomethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine (13 g, 36.77 mmol), in acetonitrile (500 mL) at RT under nitrogen. The resulting mixture was stirred at 80° C. for 3 hours. Additional sodium 2-(trifluoromethyl)benzenesulfinate (10.2 g, 44 mmol) was added and reaction heated at 80° C. for 1 hour. The reaction mixture allowed to cool and concentrated in vacuo. The material was dissolved in ethyl acetate (500 mL), and washed with water (200 mL). The organic layer was dried (MgSO4), filtered and evaporated to afford crude product. The crude product was purified by flash silica chromatography, elution gradient 0 to 40% ethyl acetate in isohexane, to give the desired material as an orange/cream solid (9.48 g).

reactant | Sodium 2-(trifluoromethyl)benzenesulfinate | 44 mmol, 10.24 g | FC(C1=C(C=CC=C1)S(=O)[O-])(F)F.[Na+]
reactant | 2-chloro-4-(iodomethyl)-6-[(3S)-3-methylmorpholin-4-yl]pyrimidine | 36.77 mmol, 13 g | ClC1=NC(=CC(=N1)CI)N1[C@H](COCC1)C | C10H13ClIN3O
reactant | sodium 2-(trifluoromethyl)benzenesulfinate | 44 mmol, 10.2 g | FC(C1=C(C=CC=C1)S(=O)[O-])(F)F.[Na+]
solvent | acetonitrile | 500 mL | C(C)#N | C2H3N
product | 2-Chloro-4-[(3S)-3-methylmorpholin-4-yl]-6-[[2-(trifluoromethyl)phenyl]sulfonylmethyl]pyrimidine | 9.48 g | ClC1=NC(=CC(=N1)N1[C@H](COCC1)C)CS(=O)(=O)C1=C(C=CC=C1)C(F)(F)F | C17H17ClF3N3O3S
